US07964602B2
1,1-Dimethylethyl 3-methyl-1H-pyrazole-1-carboxylate (D5)
3-Methylpyrazole (4.04 g, 49.8 mmol) in acetonitrile (50 ml) was cooled to 0° C. and di-tert-butyl dicarbonate (13.00 g, 59.6 mmol) was added followed by 4-dimethyl-aminopyridine (0.61 g, 4.98 mmol). After 2 h, the solution was diluted with EtOAc (50 ml) and washed with 1M HCl, saturated NaHCO3 solution and brine (100 ml each), dried (Na2SO4) and concentrated. Purification by column chromatography on silica (0-50% diethyl ether\40-60 pet. ether gradient) gave the title compound as an oil (6.35 g). δH (CDCl3) 1.64 (9H, s), 2.33 (3H, s), 6.22 (1H, d), 8.13 (1H, d).

reactant | 3-Methylpyrazole | 49.8 mmol, 4.04 g | CC1=NNC=C1 | C4H6N2
reactant | di-tert-butyl dicarbonate | 59.6 mmol, 13.00 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
solvent | EtOAc | 50 ml | CCOC(=O)C | C4H8O2
product | 1,1-Dimethylethyl 3-methyl-1H-pyrazole-1-carboxylate | 6.35 g | CC1=NN(C=C1)C(=O)OC(C)(C)C | C9H14N2O2
